US07423147B2
Step C. 5-Piperidin-1-ylmethyl-2-(3-piperidin-1-yl-propoxy)-pyridine.
To a suspension of NaH (1.5 mmol) in DMF is added 3-piperidin-1-yl-propan-1-ol (1.1 mmol). After 30 min, 2-bromo-5-piperidin-1-ylmethyl-pyridine (1 mmol) is added to the mixture. After 18 h, the reaction is extracted with ethyl acetate (100 mL) and washed with 1 N NaHCO3 (50 mL) and H2O(3×50 mL). The organic layer is dried, concentrated, and chromatographed on SiO2 to provide the title compound.

reactant | NaH | 1.5 mmol | [H-].[Na+]
reactant | 3-piperidin-1-yl-propan-1-ol | 1.1 mmol | N1(CCCCC1)CCCO | C8H17NO
reactant | 2-bromo-5-piperidin-1-ylmethyl-pyridine | 1 mmol | BrC1=NC=C(C=C1)CN1CCCCC1 | C11H15BrN2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Piperidin-1-ylmethyl-2-(3-piperidin-1-yl-propoxy)-pyridine | N1(CCCCC1)CC=1C=CC(=NC1)OCCCN1CCCCC1 | C19H31N3O
